US08389717B2
c) {1-[4-(4-Chloro-6-methoxy-[1,3,5]triazin-2-ylamino)-2-methoxy-phenyl]-1H-imidazol-4-yl}-methanol
This compound was prepared in analogy to example 8 from [1-(4-amino-2-methoxy-phenyl)-1H-imidazol-4-yl]-methanol, triethylamine and 2,4-dichloro-6-methoxy-1,3,5-triazine. The title compound was isolated as a brownish solid in 61% yield.

reactant | [1-(4-amino-2-methoxy-phenyl)-1H-imidazol-4-yl]-methanol | NC1=CC(=C(C=C1)N1C=NC(=C1)CO)OC | C11H13N3O2
reactant | 2,4-dichloro-6-methoxy-1,3,5-triazine | ClC1=NC(=NC(=N1)Cl)OC | C4H3Cl2N3O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | {1-[4-(4-Chloro-6-methoxy-[1,3,5]triazin-2-ylamino)-2-methoxy-phenyl]-1H-imidazol-4-yl}-methanol | 61% yield | ClC1=NC(=NC(=N1)OC)NC1=CC(=C(C=C1)N1C=NC(=C1)CO)OC | C15H15ClN6O3
